Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
dysarthria, left sided facial droop
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms ___ is an ___ year old right-handed woman with no 
significant
past medical history who presents as a transfer from ___ with concern for stroke. 

She has been in ___ visiting her daughter since last week. 
She
spent the day running errands with her daughter. While they were
together today at the hair salon, her daughter noticed that her
speech all of a sudden seemed "like she had gotten Novocaine".
This was at approximately 4:30pm. She had last spoken to her
daughter only a minute or two before, without any slurring. In
particular her daughter noticed that she seemed to be having
trouble with "B" and "P" sounds. She then looked at Ms. ___
face and noticed that the right sound of her mouth was drooping.
Ms. ___ herself did not think her speech sounded particularly
slurred. She did not want to go to the hospital initially 
because
she did not think anything was wrong. They made their way home
from the hairdresser, and ate dinner. While eating dinner, she
did not have any choking or dysphagia, though did dribble some
water from the right side of her mouth. Throughout this time
there was no weakness, clumsiness, sensory change, vision
changes, confusion, or difficulty speaking. 

After dinner, she presented to ___. There, initial
vitals were notable for Temp 97.5, heart rate 71, blood pressure
128/73. She was noted to have a right facial droop and slurred
speech. CT head showed no acute intracranial abnormalities.
Telestroke consultation was obtained and tPA was recommended.
However, Ms ___ declined this as she felt the risk was too
substantial to justify the potential benefits. During this time
there was no fluctuation in her symptoms, and no new symptoms.
She was then transferred to ___ for further care. 

On arrival to ___, thinking back, Ms ___ realized that at 
7am
when she was having her morning coffee, she also dribbled some 
of
it from the right side of her mouth. However, she spoke to her
daughter at that time without any dysarthria or facial droop. 

Review of Systems: 
Neurologic review of systems is as above. 
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.
 
Past Medical History:
Cataracts, bilateral, s/p removal
No history of hypertension, hyperlipidemia, diabetes, abnormal
heart rhythm, heart disease, or palpitations.  
 
Social History:
___
Family History:
No family of neurologic disease. Father died at ___ of lung
cancer. Mother died at ___ of congestive heart failure.   

 
Physical Exam:
Physical Examination on admission: 
Vitals: 98.2 92 149/78 16 95% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Awake and alert. Able to relate history without
difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Able to follow
both midline and appendicular commands. There was no evidence of
apraxia or neglect. Speech is mildly dysarthric, though
intelligible.

-Cranial Nerves:
II, III, IV, VI:  Slight anisocoria with R pupil larger than 
left
by 1mm, both equally reactive. No rAPD. EOMI without nystagmus.
Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch and pinprick.
VII: Slight flattening of the right nasolabial fold.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [Delt][Bic][Tri][ECR][FEx][IO][IP][Quad][Ham][TA][Gas]
L    5    5    5    5    5    5   5    5    5   5    5    
R    5    5    4+   5    5    5   5    5    5   5    5    

-Sensory: There is a symmetric and circumferential decrease in
both pinprick/temperature as well as vibratory sense below the
lower shin, bilaterally. No extinction to DSS. Romberg absent. 

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Negative
Unterberger. 

Physical Exam on discharge:
General unchanged, strength unchanged, sensation unchanged. Exam 
notable for dysarthria, mild Left sided nasolabial fold 
flattening, mild L sided pronator drift.  Some intention tremor 
on L hand.   
 
Pertinent Results:
___ 05:55AM BLOOD WBC-6.5 RBC-4.37 Hgb-13.0 Hct-39.5 MCV-90 
MCH-29.7 MCHC-32.9 RDW-13.2 RDWSD-43.4 Plt ___
___ 05:55AM BLOOD Glucose-89 UreaN-16 Creat-1.1 Na-143 
K-3.9 Cl-107 HCO3-25 AnGap-11
___ 05:55AM BLOOD Calcium-9.7 Phos-3.8 Mg-1.9
___ 01:31AM BLOOD %HbA1c-5.6 eAG-114
___ 01:31AM BLOOD Triglyc-121 HDL-83 CHOL/HD-2.5 
LDLcalc-100
___ 01:31AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 01:31AM BLOOD Cholest-207*
___ 02:50AM URINE Blood-SM* Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

Telemetry: Normal sinus rhythem

Imaging: 
CT head and CTA head and neck: No acute large territorial 
infarction. No evidence of  intracranial hemorrhage. Chronic 
infarctions of the bilateral basal ganglia.   Small 1.3 cm right 
posterior parietal extra-axial calcified masslike lesion may 
represent a meningioma. No significant stenosis, mild 
intracranial atherosclerosis.

MRI brain: 
1. 2 focal acute infarcts in the left frontal lobe.  2. 17 x 9 
mm low signal intensity extra-axial mass, overlying the right 
parietal lobe, which likely represents a calcified meningioma. 

TTE:  IMPRESSION: Mild symmetric left ventricular hypertrophy 
with normal cavity size and regional/global biventricular 
systolic function. Mild aortic regurgitation with mildly 
thickened leaflets.
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman without significant vascular
risk factors, other than a history of tobacco use, who is 
admitted to the Neurology stroke service with abrupt onset of 
right facial droop and asymmetry and possible mild aphasia 
secondary to an acute ischemic stroke in the left frontal lobe. 
MRI showed two punctate areas of restricted diffusion in the 
left frontal lobe. Her stroke was most likely secondary to 
embolic event given distribution of infarcts having to focal 
areas found in the left frontal lobe. She was found to have 
hyperlipidemia, with LDL of 100. Hemoglobin A1c was 5.6%. Other 
work-up included CTA head and neck, which found some mild 
intracranial atherosclerotic disease. As well as MRI head, which 
found to acute infarcts left frontal lobe. The distribution is 
concerning for embolic event. Patient monitor on telemetry while 
inpatient, with no signs atrial fibrillation. Patient to be 
discharged with a ZIO patch to monitor for A. fib. Patient has 
signs of chorionic lacunar infarcts on MRI consistent with 
poorly controlled hypertension. Patient started on amlodipine 
5mg daily for hypertension and should be titrated outpatient. 

TTE with no clear contributing etiology, just "IMPRESSION: Mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global biventricular systolic function. Mild aortic 
regurgitation with mildly thickened leaflets."

The only deficit on discharge was mild dysarthria, mild right 
sided nasolabial fold flattening, mild R sided pronator drift. 
Some intention tremor on L hand. She will be given a discharge 
prescription for speech therapy as an outpatient.

============================================
Transitional issues:

[] Patient should take Aspirin 81mg AND Clopidogrel 75mg daily 
for 3 weeks, then STOP Clopidogrel and take only Aspirin 81mg 
daily (per POINT Trial).
[] Incidental 17 mm x 9 mm extra-axial mass at the right 
anterior parietal vertex, likely a meningioma. 
[] Treat hypertension as an outpatient. Started Amlodipine 5mg 
daily during admission, for blood pressure 150-170/70-80.
[] Follow-up on ZIO Patch results for paroxysmal atrial 
fibrillation.

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? (x) Yes (LDL = ) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL ___ 70) (x) Yes - () No 
[if LDL ___, reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:
[ ] Statin medication allergy
[ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist
[ ] LDL-c less than 70 mg/dL
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin E Dose is Unknown  PO Frequency is Unknown 
2. Senna 8.6 mg PO BID:PRN Constipation - First Line 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
once a day Disp #*90 Tablet Refills:*3 
3.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*3 
4.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
5.  Vitamin E 1 UNIT PO AS PREVIOUSLY TAKING   
6.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
7.Outpatient Speech/Swallowing Therapy
Evaluation and treatment.
Cerebral infarction, unspecified. ICD ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to symptoms of acute onset right 
facial droop and dysarthria (slurred speech) resulting from an 
ACUTE ISCHEMIC STROKE, a condition where a blood vessel 
providing oxygen and nutrients to the brain is blocked by a 
clot. The brain is the part of your body that controls and 
directs all the other parts of your body, so damage to the brain 
from being deprived of its blood supply can result in a variety 
of symptoms.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:

Age, history of smoking, likely high blood pressure

We are changing your medications as follows:

-Start taking 81 mg of aspirin daily.
-Start taking Plavix 75 mg a day for 3 weeks, then STOP.
-Start taking atorvastatin 40 mg a day.
- Start taking Amlodipine 5mg a day.  

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:

- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,

Your ___ Neurology Team

 
Followup Instructions:
___